US03985777
A. ethyl-4-phenoxy-3-n-propylamino-5sulphamyl-benzoate
A solution of ethyl-3-allylamino-4-phenoxy-5-sulphamyl-benzoate (1.65 g) in ethanol (150 ml) was hydrogenated at room temperature and 1.1. atmospheres hydrogen pressure after the addition of a palladium-on-carbon catalyst (0.6 g catalyst containing 10% Pd). After the hydrogen uptake had become negligible, the catalyst was removed by filtration, and the filtrate was evaporated in vacuo. The residue was recrystallized twice from aqueous ethanol, resulting in ethyl-4-phenoxy-3-n-propylamino-5-sulphamyl-benzoate with a melting point of 150°-151° C.

reactant | ethyl-3-allylamino-4-phenoxy-5-sulphamyl-benzoate | 1.65 g | C(C)OC(C1=CC(=C(C(=C1)S(N)(=O)=O)OC1=CC=CC=C1)NCC=C)=O | C18H20N2O5S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 0.6 g | [Pd] | Pd
product | ethyl-4-phenoxy-3-n-propylamino-5sulphamyl-benzoate | C(C)OC(C1=CC(=C(C(=C1)S(N)(=O)=O)OC1=CC=CC=C1)NCCC)=O | C18H22N2O5S
